US05650422
By the method of part E of Example 45 2-phenylthiomethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin (1.92 g) was reacted with sulfuryl chloride (0.54 g) in dichloromethane at about 5° C. and purified with hexane affording 2-chloromethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin, 1.54 g, 95% yield, mp 117°-119° C.

reactant | 2-phenylthiomethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin | 1.92 g | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=C(C=CC(=C2C1=O)OCC)OCC(=O)OC(C)(C)C | C22H25NO7S2
reactant | sulfuryl chloride | 0.54 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloromethyl-4-ethoxy-7-(t-butoxycarbonylmethoxy)saccharin | 95% yield | ClCN1S(=O)(=O)C2=C(C=CC(=C2C1=O)OCC)OCC(=O)OC(C)(C)C | C16H20ClNO7S
